US06117811
A double-walled reactor having a volume of 1.5 L, provided with baffles, condenser, top stirrer, thermometer and dropping funnel was charged with 900 g of clear 50% strength NaOH (11.3 mol), followed by cooling to 10° C. Then 30 g of Aliquat 336 (74 mmol) and 48 g (0.72 mol) of freshly cracked cyclopentadiene were added. The reaction mixture was stirred turbulently for a few minutes. Then 577 g of octyl bromide (2.99 mol) were added in one hour's time, cooling with water taking place at the same time. After 1 hour's stirring at room temperature the reaction mixture was heated to 35° C., followed by a further 6 hours' stirring. Stirring was stopped and phase separation was awaited. The water layer was drawn off and 920 g (11.5 mol) of fresh 50% strength NaOH were added, followed by a further 5 hours' stirring at room temperature. GC was used to show that at that instant 10% of tri-, 83% of tetra- and 7% of penta(octyl)cyclopentadiene were present in the mixture. The product was distilled at reduced pressure. After vacuum distillation, 226.6 g of tetra(octyl)cyclopentadiene were obtained. Characterization of the product took place with the aid of GC, GC-MS, 13C- and 1H-NMR.

reactant | NaOH | 11.3 mol | [OH-].[Na+]
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | octyl bromide | 2.99 mol, 577 g | C(CCCCCCC)Br | C8H17Br
catalyst | Aliquat 336 | 74 mmol, 30 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | O | H2O
product | tetra(octyl)cyclopentadiene | 226.6 g | C(CCCCCCC)C1=C(C(=C(C1)CCCCCCCC)CCCCCCCC)CCCCCCCC | C37H70
